US05716954
A solution of 2-(3-chlorobenzoyl)-3-methoxycarbonylpyridine (0.30 g, 1.09 mmoles), phenylhydrazine (0.27 ml, 2.72 mmoles) in ethanol (18 ml) was stirred at 100° C. for 72 hours. The solution was cooled and the solvent was removed. The residue was triturated with methanol to give a white solid, which was collected and air dried, yielding 0.26 g of 6-phenyl-8-(3-chlorophenyl)pyrido[2,3-d]pyridazin-5-one (71.5%), mp 144°-145° C.

reactant | 2-(3-chlorobenzoyl)-3-methoxycarbonylpyridine | 1.09 mmoles, 0.30 g | ClC=1C=C(C(=O)C2=NC=CC=C2C(=O)OC)C=CC1 | C14H10ClNO3
reactant | phenylhydrazine | 2.72 mmoles, 0.27 ml | C1(=CC=CC=C1)NN | C6H8N2
solvent | ethanol | 18 ml | C(C)O | C2H6O
product | 6-phenyl-8-(3-chlorophenyl)pyrido[2,3-d]pyridazin-5-one | 0.26 g, 71.5% | C1(=CC=CC=C1)N1N=C(C2=C(C1=O)C=CC=N2)C2=CC(=CC=C2)Cl | C19H12ClN3O
